US07244730B2
(Step 6) tert-Butyl N-[4-(bromomethyl)-5-cyano-2-ethoxybenzoyl]-N-methylcarbamate
After dissolving tert-butyl N-(5-cyano-2-ethoxy-4-methylbenzoyl)-N-methylcarbamate (79.6 g) in carbon tetrachloride, azobisisobutyronitrile (4.1 g) was added and the mixture was heated to reflux. N-bromosuccinimide (50.3 g) was gradually added to the reaction mixture in small portions at a time. After heating to reflux for 2 hours, the mixture was filtered. The filtrate was concentrated and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (29.81 g) as a white solid.

reactant | tert-butyl N-(5-cyano-2-ethoxy-4-methylbenzoyl)-N-methylcarbamate | 79.6 g | C(#N)C=1C(=CC(=C(C(=O)N(C(OC(C)(C)C)=O)C)C1)OCC)C | C17H22N2O4
reactant | azobisisobutyronitrile | 4.1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 50.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-Butyl N-[4-(bromomethyl)-5-cyano-2-ethoxybenzoyl]-N-methylcarbamate | 29.81 g | BrCC1=CC(=C(C(=O)N(C(OC(C)(C)C)=O)C)C=C1C#N)OCC | C17H21BrN2O4
